US08754114B2
N-(Tetrahydrofuran-2-ylmethyl)-4-{1-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]-1H-benzimidazol-5-yl}benzamide
This compound was prepared by using procedures analogous to those described for the synthesis of Example 7 starting from 4-{1-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)-phenyl]-1H-benzimidazol-5-yl}benzoic acid and 2-furanmethanamine, tetrahydro- (Aldrich, Cat. No. 131911). LCMS (M+H)+: m/z=538.3.

reactant | 4-{1-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)-phenyl]-1H-benzimidazol-5-yl}benzoic acid | FC(CNC(=O)NC=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)C2=CC=C(C(=O)O)C=C2)(F)F | C23H17F3N4O3
reactant | 2-furanmethanamine | O1C(=CC=C1)CN | C5H7NO
product | N-(Tetrahydrofuran-2-ylmethyl)-4-{1-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]-1H-benzimidazol-5-yl}benzamide | O1C(CCC1)CNC(C1=CC=C(C=C1)C1=CC2=C(N(C=N2)C2=CC(=CC=C2)NC(=O)NCC(F)(F)F)C=C1)=O | C28H26F3N5O3
